US04410537
2-Hydroxy-6-methoxybenzaldehyde (4.56 g, 0.03 M), methyl 3-bromomethylbenzoate (6.87 g, 0.03 M), anhydrous potassium carbonate (4.455 g), sodium iodide (0.18 g) and methanol (50 ml) were refluxed with stirring for 18 hr. The cooled reaction mixture was filtered and the solid washed well with methanol. The filtrate was evaporated to dryness and the residue triturated with 1 N sodium hydroxide solution. The solid was filtered off and washed with water to give methyl 3-(2-formyl-3-methoxyphenoxy)methylbenzoate, 3.27 g, 36%, m.p. 96°-97° C. from ethyl acetate/petrol.

reactant | 2-Hydroxy-6-methoxybenzaldehyde | 0.03 M, 4.56 g | OC1=C(C=O)C(=CC=C1)OC | C8H8O3
reactant | methyl 3-bromomethylbenzoate | 0.03 M, 6.87 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | potassium carbonate | 4.455 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.18 g | [I-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | methyl 3-(2-formyl-3-methoxyphenoxy)methylbenzoate | C(=O)C1=C(OCC=2C=C(C(=O)OC)C=CC2)C=CC=C1OC | C17H16O5
